US05292740
By reacting 4,6-dichloro-5-(o-methoxyphenoxy)-2-propylpyrimidine with p-tert-butylphenylsulfonamide and thereafter with ethylene glycol Na, there was obtained p-tert-butyl-N-[6-(2-hydroxyethoxy)-5-(o-methoxyphenoxy)-2-propyl-4-pyrimidinyl]-benzenesulfonamide.

reactant | 4,6-dichloro-5-(o-methoxyphenoxy)-2-propylpyrimidine | ClC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)CCC | C14H14Cl2N2O2
reactant | p-tert-butylphenylsulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N | C10H15NO2S
product | p-tert-butyl-N-[6-(2-hydroxyethoxy)-5-(o-methoxyphenoxy)-2-propyl-4-pyrimidinyl]-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCO)CCC | C26H33N3O6S
